US08648089B2
4-(6-(4-methoxyphenyl)-1-(6-(methylamino)pyrimidin-4-yl)-1H-indol-3-yl)-N-(2-morpholinoethyl)benzamide
O-(7-Azabenzotriazol-1-yl)-N,N,N,N-tetramethyluronium hexafluorophosphate (HATU; 63 mg, 0.167 mmol) was added to a mixture solution of 4-(6-(4-methoxyphenyl)-1-(6-(methylamino)pyrimidin-4-yl)-1H-indol-3-yl)benzoate (50 mg, 0.111 mmol), 2-morpholinoethanamine (14.6 μL, 0.111 mmol) and diisopropylethylamine (DIPEA; 29 μL, 0.167 mmol) in THF (2 mL) at room temperature. 2 hours later, the mixture was added to saturated sodium bicarbonate aqueous solution and then extracted with methylene chloride. The collected organic layer was washed with brine and concentrated under reduced pressure by drying with anhydrous magnesium sulfate. The residue was purified by chromatography (preparative HPLC). The target compound (15 mg) was obtained as white solid.

reactant | 4-(6-(4-methoxyphenyl)-1-(6-(methylamino)pyrimidin-4-yl)-1H-indol-3-yl)benzoate | 0.111 mmol, 50 mg | COC1=CC=C(C=C1)C1=CC=C2C(=CN(C2=C1)C1=NC=NC(=C1)NC)C1=CC=C(C(=O)[O-])C=C1
reactant | 2-morpholinoethanamine | 0.111 mmol, 14.6 μL | O1CCN(CC1)CCN | C6H14N2O
reactant | diisopropylethylamine | 0.167 mmol, 29 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-(6-(4-methoxyphenyl)-1-(6-(methylamino)pyrimidin-4-yl)-1H-indol-3-yl)-N-(2-morpholinoethyl)benzamide | 15 mg | COC1=CC=C(C=C1)C1=CC=C2C(=CN(C2=C1)C1=NC=NC(=C1)NC)C1=CC=C(C(=O)NCCN2CCOCC2)C=C1 | C33H34N6O3
